US08648099B2
c) 5-(4-Chlorophenyl)-N-(4-methyl-3-oxopiperazin-1-yl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxamide
The title compound was synthesized in analogy to Example 1 using 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid (CAN 1018782-82-5) and 4-amino-1-methyl-piperazin-2-one trifluoroacetate (1:1) as starting materials; LC-MS (UV peak area/ESI) 94.7%, 443.1084 (M+H)+.

reactant | 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C14H9ClF3NO3
reactant | 4-amino-1-methyl-piperazin-2-one trifluoroacetate | FC(C(=O)O)(F)F.NN1CC(N(CC1)C)=O
product | 5-(4-Chlorophenyl)-N-(4-methyl-3-oxopiperazin-1-yl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxamide | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)NN1CC(N(CC1)C)=O | C19H18ClF3N4O3
